US06048864
(b) 5-Methanesulfonamido-1,2,3,4-tetrahydroisoquinoline hydrochloride
A solution of 5-methanesulfonamidoisoquinoline (3.50 g, 0.0156 mol) in ethanol (250 ml) was treated with platinum dioxide (1.5 g) and 1N aqueous hydrochloric acid (15.7 ml). The mixture was hydrogenated at a pressure of 414 kPa (60 psi) for 16 hours, after which time the reaction mixture was filtered. The filtrate was evaporated under reduced pressure and triturated with dichloromethane to afford the subtitle compound as a colourless solid. The solid residue from the filtration was taken up into methanol:water (1:2, v/v), and the suspension filtered, washing with dichloromethane (3×). This filtrate was evaporated to afford a second crop of the subtitle compound (total yield 3.45 g, 84%). Rf 0.21 (0.880 aqueous ammonia:methanol:dichloromethane, 1:10:90, v/v). 1H NMR (D6 -DMSO) δ: 2.96-3.10 (2H, m), 3.31 (3H, m), 4.21 (2H, s), 7.12 (1H, m), 7.26 (2H, m), 9.24 (1H, s), 9.61 (2H, bs).

reactant | 5-methanesulfonamidoisoquinoline | 0.0156 mol, 3.50 g | CS(=O)(=O)NC1=C2C=CN=CC2=CC=C1 | C10H10N2O2S
reactant | hydrochloric acid | 1N, 15.7 ml | Cl | ClH
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | platinum dioxide | 1.5 g | [Pt](=O)=O
product | 5-Methanesulfonamido-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.CS(=O)(=O)NC1=C2CCNCC2=CC=C1 | InChI=1S/C10H14N2O2S.ClH/c1-15(13,14)12-10-4-2-3-8-7-11-6-5-9(8)10;/h2-4,11-12H,5-7H2,1H3;1H
